US07714010B2
b) 2-[2-(1H-Benzoimidazol-2-yl)-ethyl]-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
A solution of N-(6-amino-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-3-(1H-benzoimidazol-2-yl)-propionamide (218 mg) in acetic acid (6 ml) is heated under reflux for 3 h. After re-cooling, water is added and the mixture is extracted with EtOAc (3×30 ml). The combined organic layer is washed with saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo to give the desired compound (90 mg).

reactant | N-(6-amino-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-3-(1H-benzoimidazol-2-yl)-propionamide | 218 mg | NC1=C(C=C2C(C(N(C2=C1)C)=O)(C)C)NC(CCC1=NC2=C(N1)C=CC=C2)=O | C21H23N5O2
reactant | water | O | H2O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 2-[2-(1H-Benzoimidazol-2-yl)-ethyl]-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 90 mg | N1C(=NC2=C1C=CC=C2)CCC2=NC=1C(=CC=3C(C(N(C3C1)C)=O)(C)C)N2 | C21H21N5O
